* C:\users\janhenrik\Meine Dokumente\STM32Cube\Enlighted-Otter\HW\Sim\Boost.asc
M1 N001 GATE 0 0 FDS5690
L1 VIN N001 3.3µ Ipk=3.7 Rser=0.042 Rpar=15188 Cpar=3.369p mfg="Würth Elektronik" pn="784774033 WE-PD2A 5848"
D1 N001 VOUT SS24
V1 VIN 0 4.2 Rser=0
R2 VOUT 0 55 tol=1 pwr=0.1
C1 VOUT 0 10µ V=25 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C575OX7RIE106M" type="X7R"
V2 GATE 0 PULSE(0 5 0 0 0 {0.72/freq} {1/freq})
.model D D
.lib C:\users\janhenrik\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\janhenrik\Meine Dokumente\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.001 0
.param freq=750k
.backanno
.end
