* C:\users\janhenrik\Meine Dokumente\STM32Cube\Enlighted-Otter\HW\Sim\Boost.asc
M1 N001 GATE 0 0 FDS5690
L1 VIN N001 3.3µ Ipk=3.7 Rser=0.042 Rpar=15188 Cpar=3.369p mfg="Würth Elektronik" pn="784774033 WE-PD2A 5848"
D1 N001 VOUT SS24
V1 VIN 0 4.2 Rser=0
C1 VOUT 0 10µ V=25 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C575OX7RIE106M" type="X7R"
V2 GATE 0 PULSE(0 5 0 0 0 {0.72/freq} {1/freq})
C2 VIN 0 10µ V=25 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C575OX7RIE106M" type="X7R"
R1 VOUT 0 75 tol=1 pwr=1
.model D D
.lib C:\users\janhenrik\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\janhenrik\Meine Dokumente\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.001 0.00095
.step param freq 150k 950k 25k
.meas Pin RMS -V(vin)*I(V1)
.meas Pout RMS V(vout)*I(R1)
.meas Eff param Pout/Pin
.backanno
.end
