* C:\users\janhenrik\Meine Dokumente\STM32Cube\Enlighted-Otter\HW\Sim\Boost.asc
M1 N001 GATE 0 0 FDS5690
L1 VIN N001 {hen} Ipk=3.7 Rser=0.042 Rpar=15188 Cpar=3.369p
D1 N001 VOUT SS24
V1 VIN 0 4.2 Rser=0
C1 VOUT 0 4.7µ V=25 Irms=0 Rser=0.003 Lser=0
V2 N002 0 PULSE(0 5 0 0 0 {0.715/freq} {1/freq}) Rser=5
C2 VIN 0 10µ V=25 Irms=0 Rser=0.001 Lser=0 mfg="TDK" pn="C575OX7RIE106M" type="X7R"
R1 VOUT 0 {res} tol=1 pwr=1
R2 GATE N002 5 tol=1 pwr=1
C3 VOUT 0 4.7µ V=25 Irms=0 Rser=0.003 Lser=0
.model D D
.lib C:\users\janhenrik\Meine Dokumente\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\janhenrik\Meine Dokumente\LTspiceXVII\lib\cmp\standard.mos
.tran 0 0.001 0.00095
.step param hen 1µ 15µ 200n
.meas Pin RMS -V(vin)*I(V1)
.meas Pout RMS V(vout)*I(R1)
.meas Eff PARAM Pout/Pin*100.0
.param res=85 freq=750k
.backanno
.end
